US04576938
1-Amino-5-mercapto-1H-tetrazole (4.18 g) was dissolved in tetrahydrofuran (30 ml), and acetic anhydride (4.01 g) was added thereto. The mixture was refluxed for 6 hours and then condensed under reduced pressure to remove solvent. Methanol (4 ml) was added to the residue thus obtained, and the methanol solution was allowed to stand at room temperature for 20 minutes. The mixture was evaporated to remove solvent. Hot isopropanol was added to the residue thus obtained, and the solution was allowed to stand at room temperature. Crystalline precipitates were collected by filtration. 4.71 g of 1-acetamido-5-mercapto-1H-tetrazole were obtained as colorless needles. mp 147°-148° C. (decomp.)

reactant | 1-Amino-5-mercapto-1H-tetrazole | 4.18 g | NN1N=NN=C1S | CH3N5S
reactant | acetic anhydride | 4.01 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-acetamido-5-mercapto-1H-tetrazole | 4.71 g | C(C)(=O)NN1N=NN=C1S | C3H5N5OS
